US04066651
A mixture of α(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid (0.5g.), methanol (5ml.) and concentrated sulphuric acid (4 drops) was heated under reflux for six hours. The mixture was then poured into water (10 ml.), and the resulting mixture was neutralised with sodium bicarbonate solution. The mixture was extracted with ethyl acetate (3 × 5 ml.) and the combined extracts were washed successively with sodium bicarbonate solution (5 ml.) and water (5 ml.), and then dried with sodium sulphate. The solvent was evaporated in vacuo and the residue crystallised from cyclohexane to give methyl α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate m.p. 90°-92.5° C, in 74% yield.

reactant | α(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionic acid | 0.5g | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)O)C)=O | C19H17NO3
reactant | methanol | 5ml | CO | CH4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | sulphuric acid | 4 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 10 ml | O | H2O
product | methyl α-(1-benzyl-1,2-dihydro-2-oxoquinol-4-yl)propionate | 74% yield | C(C1=CC=CC=C1)N1C(C=C(C2=CC=CC=C12)C(C(=O)OC)C)=O | C20H19NO3
